US05387595
Step B) α-Aminocarbonylamino-3-(SR)-(3,5-bis(trifluoromethyl)benzyloxy)-2-(SR)-phenyl-1-(SR)-methylcyclohexane
A solution of 56 mg (0.12 mmole) of α-isocyanato-3-(SR)-(3,5-Bis(trifluoromethyl)-benzyloxy)-2-(SR)-phenyl-1-(SR)-methylcyclohexane in 1 mL of methylene chloride was treated with 3 mL of ammonia-saturated methylene chloride at room temperature. After 1 hr, the solution was concentrated in vacuo and the residue purified by flash chromatography on 16 g of silica eluting with 400 mL of 100:2 methylene chloride: methanol to provide 54 mg (93%) of a white powder.

reactant | α-isocyanato-3-(SR)-(3,5-Bis(trifluoromethyl)-benzyloxy)-2-(SR)-phenyl-1-(SR)-methylcyclohexane | 0.12 mmole, 56 mg | N(=C=O)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OC1C(C(CCC1)C)C1=CC=CC=C1 | C23H21F6NO2
reactant | ammonia | 3 mL | N | H3N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | α-Aminocarbonylamino-3-(SR)-(3,5-bis(trifluoromethyl)benzyloxy)-2-(SR)-phenyl-1-(SR)-methylcyclohexane | 54 mg, 93% | NC(=O)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OC1C(C(CCC1)C)C1=CC=CC=C1 | C23H24F6N2O2
